US06043248
To (E)-N,N-Diethyl-4-hydroxy-2-pentenamide (0.67 g, 3.93 mmol) in methylene chloride cooled to -15° C. in a flame dried flask is added dichlorotriphenylphosphorane (1.40 g, 4.33 mmol). The reaction is warmed to ambient temperature, quenched by addition of ice (10 ml), extracted with methylene chloride (3×20 ml), washed with saline (30 ml), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (75/25). The appropriate fractions are combined (Rf =0.48, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give (E)-4-chloro-N,N-diethyl-2-pentenamide. 4-Amino-6-chloro-2-mercaptopyrimidine mesylate (0.56 g, 2.19 mmol) is dissolved in DMF (4 ml) and sodium hydride (0.12 g, 4.82 mmol) at ambient temperature followed by the addition of (E)-4-chloro-N,N-diethyl-2-pentenamide (0.41 g, 2.19 mmol). The reaction is stirred for 15 hours, quenched with excess water, extracted with ethyl acetate (3×25 ml). The extracts are combined, washed with saline (25 ml), dried over sodium sulfate, concentrated in vacuo and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with a gradient of hexane/ethyl acetate (80/20-60/40). The appropriate fractions are combined (Rf =0.27, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give the title compound, mp 152-153° C.

reactant | (E)-N,N-Diethyl-4-hydroxy-2-pentenamide | 3.93 mmol, 0.67 g | C(C)N(C(\C=C\C(C)O)=O)CC | C9H17NO2
reactant | dichlorotriphenylphosphorane | 4.33 mmol, 1.40 g | ClP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C18H15Cl2P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (E)-4-chloro-N,N-diethyl-2-pentenamide | ClC(/C=C/C(=O)N(CC)CC)C | C9H16ClNO
